US07202360B2
A) Preparation of 3-(2-chloroethyl)-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one
40 g of 2-aminopyridine and 75 ml of 3-acetyl-4,5-dihydro-2(3H)-furanone were added to 1.0 L of toluene, and then 200 ml of phosphorus oxychloride was added thereto dropwise over 1 hour. The resulting mixture was slowly heated and refluxed for 5 hours. The reaction mixture was concentrated under a reduced pressure and the residue was poured to a mixture of ice and ammonia water. The resulting solid was extracted with 1.0L of dichloromethane, dried and filtered. The filtrate was concentrated under a reduced pressure to remove dichloromethane and 500 ml of isopropanol was added to the residue. The resulting crystal was filtered, washed and dried to obtain 48.1 g of the title compound as a off-white crystal (yield: 52%).

reactant | 2-aminopyridine | 40 g | NC1=NC=CC=C1 | C5H6N2
reactant | 3-acetyl-4,5-dihydro-2(3H)-furanone | 75 ml | C(C)(=O)C1C(OCC1)=O | C6H8O3
reactant | phosphorus oxychloride | 200 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 1.0 L | C1(=CC=CC=C1)C | C7H8
product | 3-(2-chloroethyl)-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 48.1 g, yield: 52% | ClCCC1=C(N=C2N(C1=O)C=CC=C2)C | C11H11ClN2O
